US04385059
4-(4-Chlorophenyl)-2-(4-hydroxyphenyl)thiazole-5-acetic acid
3-Bromo-3-(4-chlorobenzoyl)propionic acid (27 g), and 4-hydroxy-thiobenzamide (14.6 g) were heated to 80° in dimethylformamide (50 ml). The reactants were kept at this temperature for 1 hour, cooled and poured onto ice. The resulting gum solidified, and was filtered, and washed with water, to give 31.6 g of powder, m.p. 184°-194° C. (decomp.). This was recrystallised from aqueous isopropanol affording 25.4 g of the title compound, hemihydrate, m.p. 192°-194° (d).

reactant | 3-Bromo-3-(4-chlorobenzoyl)propionic acid | 27 g | BrC(CC(=O)O)C(C1=CC=C(C=C1)Cl)=O | C10H8BrClO3
reactant | 4-hydroxy-thiobenzamide | 14.6 g | OC1=CC=C(C(=S)N)C=C1 | C7H7NOS
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4-Chlorophenyl)-2-(4-hydroxyphenyl)thiazole-5-acetic acid | 31.6 g | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)O | C17H12ClNO3S
